US05498630
2-Chloro-6-(trimethylsilyl)benzoic acid
2-Chlorobenzoic acid (3.91 g, 25 mmol), THF (60 mL), and TMEDA (8.6 mL, 57 mmol) were stirred under nitrogen and cooled to -100° C. 1.3M s-BuLi in cyclohexane (0.055 mol, 42.3 mL) was added dropwise keeping the temperature below -80° C. After the addition was complete, TMSCl (2.7 g, 25 mmol) was added dropwise and the resulting mixture was allowed to stir and slowly warm to -30° C. 25% citric acid (100 mL) was added and the mixture was extracted with two 50 mL portions of ether, which were then combined and washed three times with water, dried (MgSO4) and concentrated. The crude product was purified by HPLC, eluting with 2:3 ethyl acetate/hexanes. The product was recovered as a white solid in 63% yield. m.p. 129°-131° C.

reactant | 2-Chlorobenzoic acid | 25 mmol, 3.91 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | TMEDA | 57 mmol, 8.6 mL | CN(C)CCN(C)C | C6H16N2
reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 0.055 mol, 42.3 mL | C1CCCCC1 | C6H12
reactant | TMSCl | 25 mmol, 2.7 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | citric acid | 100 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-Chloro-6-(trimethylsilyl)benzoic acid | 63% yield | ClC1=C(C(=O)O)C(=CC=C1)[Si](C)(C)C | C10H13ClO2Si
